2100-09-17 08:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2100-9-17**] 02:51 AM
   Allergies:
   Cefazolin
   Rash;
   Hydromorphone
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-9-17**] 05:54 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-9-17**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 88 (88 - 113) bpm
   BP: 103/46(60) {83/40(49) - 110/64(76)} mmHg
   RR: 18 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             4,541 mL
   PO:
             TF:
   IVF:
   841 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    450 mL
   Urine:
   200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,091 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   GENERAL: Pleasant gentleman, in NAD
   HEENT: Normocephalic, atraumatic. Cconjunctival pallor present. EOMI.
   MMM. OP clear. Neck Supple.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. I/VI systolic
   murmur best at RUSB.  JVP 7 cm
   LUNGS: Decreased BS at right lower lung field.
   ABDOMEN: Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. Preserved sensation throughout. 5/5 strength
   throughout.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   338 K/uL
   11.3 g/dL
   91 mg/dL
   1.3 mg/dL
   20 mEq/L
   5.3 mEq/L
   21 mg/dL
   103 mEq/L
   134 mEq/L
   33.8 %
   5.7 K/uL
        [image002.jpg]
                            [**2100-9-17**]  03:40 AM
   WBC
   5.7
   Hct
   33.8
   Plt
   338
   Cr
   1.3
   Glucose
   91
   Other labs: ALT / AST:[**8-4**], Alk Phos / T Bili:58/1.7, Amylase /
   Lipase:/18, LDH:221 IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   68 y/o gentleman with acute on chronic fatigue and SOB, h/o metastatic
   renal cell cancer to lungs
   .
   # Hypotension:  Hypovolumic and/or sepsis.  Currently afebrile.
   However RLL consolidation concerning for PNA.  Acute blood loss, ?
   bleed in the pelvis.  Will also need to evaluate for hemolysis.
   Guaic negative in ED.
   - HCT q6h, transfuse to HCT > 27
   - Add on hemolysis labs and retic count
   - Continue Vanc/zosyn/levaquin to cover HCAP
   - Rule out Flu
   - send urine legionella
   - Follow up on UA/UCX/BCX
   - wean off of levophed
   - hold antihypertensives
   - follow up official read of CT scan
   .
   # Acute on Chronic renal failure:  Appears to be prerenal in etiology.
   - volume resuscitation as above
   - trend renal function
   - renally dose meds/avoid nephrotoxins
   .
   # Hypercalcemia:  Secondary to metastatic renal cell CA.
   - IVF as above
   .
   # Metastatic renal cell carcinoma:
   - appreciate heme/onc recs
   .
   # Hypothyroidism:  Recently started on levothyroxine.
   - continue home levothyroxine
   .
   FEN:  Regular diet; replete lytes prn; IVF as above
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen  colace/senna/PPI
   -Pain management with home oxycodone regimen and fentanyl patch
   .
   ACCESS: Double lumen port.
   .
   CODE STATUS: DNR/DNI, confirmed with patient
   .
   EMERGENCY CONTACT:  Next of [**Name (NI) **], Wife, [**Name (NI) 8997**] [**Name (NI) 1885**] [**Telephone/Fax (1) 8998**], [**Telephone/Fax (1) 8999**]
   .
   DISPOSITION:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-9-17**] 02:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2100-09-17 09:56:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received 4 L NS and 2 units PRBC overnight
   Vasopressor remains with adequate BP MAP.
   Continues to complain of dyspnea.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Cefazolin
   Rash;
   Hydromorphone
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2100-9-17**] 05:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2100-9-17**] 08:00 AM
   Vancomycin - [**2100-9-17**] 08:24 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2100-9-17**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 87 (87 - 113) bpm
   BP: 108/48(63) {83/40(49) - 110/64(76)} mmHg
   RR: 25 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             4,876 mL
   PO:
             TF:
   IVF:
   1,176 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    625 mL
   Urine:
   375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: RIght)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   338 K/uL
   91 mg/dL
   1.3 mg/dL
   20 mEq/L
   5.3 mEq/L
   21 mg/dL
   103 mEq/L
   134 mEq/L
   33.8 %
   5.7 K/uL
        [image002.jpg]
                            [**2100-9-17**]  03:40 AM
   WBC
   5.7
   Hct
   33.8
   Plt
   338
   Cr
   1.3
   Glucose
   91
   Other labs: ALT / AST:[**8-4**], Alk Phos / T Bili:58/1.7, Amylase /
   Lipase:/18, LDH:221 IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   68 yom with acute on chronic fatigue and SOB, h/o metastatic renal cell
   cancer to lungs.
   HYPOTENSION -- attributed to possible new infection/sepsis, or
   underlying malignancy (TNF release).  Continue iv fluids.  Continue
   vasopressors.  Check cortisol level (cotrosyn stimulation test).
   SEPSIS -- concerns include lung infection or line related
   infections.    Evaluation in progress.
   DYSPNEA -- Multifactorial, likely predominatly attributed to
   progressive lung involvement by renal cell CA, possible superimposed
   acute infection (bacterial, viral, fungal).  Less likely due to
   intraparenchymal bleed.  Doubt Pulmonary embolism.  Monitor RR, SaO2.
   RENAL FUNCTION -- acute on chronic renal insufficiency.  Monitor urine
   output, BUN, creatinine.
   HYPERCALCEMIA
 Likely related to malignancy.  Improved with volume
   resussitation intervention.
   RENAL CELL CA -- Metastatic renal cell carcinoma, progressive, poor
   prognosis
   HYPOTHYROIDISM -- continue levothyroxine.
   CODE STATUS: Full Code, confirmed with patient
   EMERGENCY CONTACT:  Next of [**Name (NI) **], Wife, [**Name (NI) 8997**] [**Name (NI) 1885**] [**Telephone/Fax (1) 8998**], [**Telephone/Fax (1) 8999**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-9-17**] 02:51 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Meeting with patient and family.  Updated medical condition.  Answered
   all questions.  Discussed code status.  Pt. states he does not want
   intubation, CPR, defibrillation/cardioversion in the event of clinical
   decline.  Family present and support decision.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2100-9-17**] 19:13 ------

2100-09-18 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2100-9-17**] 04:33 PM
   Allergies:
   Cefazolin
   Rash;
   Hydromorphone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-9-17**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2100-9-18**] 12:20 AM
   Ciprofloxacin - [**2100-9-18**] 05:45 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-9-18**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-9-18**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 87 (86 - 107) bpm
   BP: 95/33(50) {95/33(50) - 160/62(84)} mmHg
   RR: 22 (15 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 78 kg
             Total In:
                                                                  7,317 mL
                                                                  1,408 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,257 mL
                                                                  1,408 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    425 mL
   Urine:
                                                                  1,250 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,817 mL
                                                                    983 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.46/29/84.[**Numeric Identifier 1132**]/18/-1
   Physical Examination
   GENERAL: Pleasant gentleman, in NAD
   HEENT: Normocephalic, atraumatic. Cconjunctival pallor present. EOMI.
   MMM. OP clear. Neck Supple.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. I/VI systolic
   murmur best at RUSB.  JVP 7 cm
   LUNGS: Decreased BS at right lower lung field.
   ABDOMEN: Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis
   NEURO: A&Ox3. Appropriate. Preserved sensation throughout. 5/5 strength
   throughout.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   317 K/uL
   9.4 g/dL
   97 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.7 mEq/L
   17 mg/dL
   106 mEq/L
   133 mEq/L
   27.8 %
   5.2 K/uL
        [image002.jpg]
                            [**2100-9-17**]  03:40 AM
                            [**2100-9-17**]  04:35 PM
                            [**2100-9-17**]  06:06 PM
                            [**2100-9-17**]  10:00 PM
                            [**2100-9-18**]  03:52 AM
   WBC
   5.7
   5.3
   5.2
   Hct
   33.8
   28.8
   28.2
   27.8
   Plt
   338
   330
   317
   Cr
   1.3
   1.2
   TCO2
   21
   Glucose
   91
   97
   Other labs: PT / PTT / INR:14.0/26.5/1.2, ALT / AST:[**8-30**], Alk Phos / T
   Bili:45/0.5, Amylase / Lipase:/18, Albumin:2.2 g/dL, LDH:127 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   68 y/o gentleman with acute on chronic fatigue and SOB, h/o metastatic
   renal cell cancer to lungs
   .
   # Hypotension:  Hypovolumic and/or sepsis.  Currently afebrile.
   However RLL consolidation concerning for PNA.  Acute blood loss, ?
   bleed in the pelvis.  Will also need to evaluate for hemolysis.
   Guaic negative in ED.
   - HCT q6h, transfuse to HCT > 27
   - Add on hemolysis labs and retic count
   - Continue Vanc/zosyn/levaquin to cover HCAP
   - Rule out Flu
   - send urine legionella
   - Follow up on UA/UCX/BCX
   - wean off of levophed
   - hold antihypertensives
   - follow up official read of CT scan
   .
   # Acute on Chronic renal failure:  Appears to be prerenal in etiology.
   - volume resuscitation as above
   - trend renal function
   - renally dose meds/avoid nephrotoxins
   .
   # Hypercalcemia:  Secondary to metastatic renal cell CA.
   - IVF as above
   .
   # Metastatic renal cell carcinoma:
   - appreciate heme/onc recs
   .
   # Hypothyroidism:  Recently started on levothyroxine.
   - continue home levothyroxine
   .
   FEN:  Regular diet; replete lytes prn; IVF as above
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen  colace/senna/PPI
   -Pain management with home oxycodone regimen and fentanyl patch
   .
   ACCESS: Double lumen port.
   .
   CODE STATUS: Full Code, confirmed with patient
   .
   EMERGENCY CONTACT:  Next of [**Name (NI) **], Wife, [**Name (NI) 8997**] [**Name (NI) 1885**] [**Telephone/Fax (1) 8998**], [**Telephone/Fax (1) 8999**]
   .
   DISPOSITION:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-9-17**] 02:51 AM
   Arterial Line - [**2100-9-17**] 04:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2100-09-20 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pressors weaned overnight
 Hemodynamically stable, BP tolerating no
   pressors.
   Allergies:
   Cefazolin
   Rash;
   Hydromorphone
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2100-9-18**] 12:20 AM
   Vancomycin - [**2100-9-19**] 08:30 PM
   Piperacillin - [**2100-9-20**] 12:00 AM
   Ciprofloxacin - [**2100-9-20**] 05:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-9-19**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-9-20**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 100 (87 - 107) bpm
   BP: 112/42(61) {94/28(44) - 145/55(78)} mmHg
   RR: 17 (12 - 44) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 78 kg
             Total In:
                                                                  3,042 mL
                                                                    372 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  2,442 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    425 mL
   Urine:
                                                                  1,525 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,517 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.45/30/77/22/-1
   Physical Examination
   GENERAL: Pleasant gentleman, in NAD
   HEENT: Normocephalic, atraumatic. PERRL. MMM. OP clear.
   CARDIAC: Regular rhythm with PVCs,  normal rate. Normal S1, S2. II/VI
   systolic murmur best at RUSB.
   LUNGS: Decreased BS at right lower lung field with some bronchial
   breath sounds on the right.  Left side clear to auscultation.
   ABDOMEN: Soft, NT, ND. No HSM
   EXTREMITIES: 1+ b/l LE edema
   NEURO: A&Ox3.
   Labs / Radiology
   252 K/uL
   9.0 g/dL
   101 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   14 mg/dL
   106 mEq/L
   133 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2100-9-17**]  03:40 AM
                            [**2100-9-17**]  04:35 PM
                            [**2100-9-17**]  06:06 PM
                            [**2100-9-17**]  10:00 PM
                            [**2100-9-18**]  03:52 AM
                            [**2100-9-18**]  02:15 PM
                             [**2100-9-19**]  03:58 AM
                             [**2100-9-19**]  05:30 PM
                             [**2100-9-20**]  03:05 AM
                             [**2100-9-20**]  03:31 AM
   WBC
   5.7
   5.3
   5.2
   5.6
   5.8
   4.9
   Hct
   33.8
   28.8
   28.2
   27.8
   28.6
   29.2
   29.3
   27.0
   Plt
   338
   330
   317
   [**Telephone/Fax (3) 9055**]
   Cr
   1.3
   1.2
   1.3
   1.3
   1.3
   TCO2
   21
   21
   Glucose
   91
   97
   146
   116
   101
   Other labs: PT / PTT / INR:13.4/27.9/1.1, ALT / AST:[**6-29**], Alk Phos / T
   Bili:42/0.5, Amylase / Lipase:/18, Differential-Neuts:77.9 %,
   Lymph:12.0 %, Mono:8.2 %, Eos:1.7 %, Albumin:2.2 g/dL, LDH:118 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   68 y/o gentleman with acute on chronic fatigue and SOB, h/o metastatic
   renal cell cancer to lungs, found to have RLL consolidation concerning
   for pneumonia.
   .
   # Hypotension:  Likely distributive shock secondary to pneumonia.  Pt
   appears to have pneumonia with worsening right sided pleural effusion.
   H/H have dropped from a baseline and are now [**8-15**].  Pt remains
   afebrile, and normotensive.
   - Check 3pm HCT
   - F/u TTE
   - D/C Cipro
   - Continue Vanc amd Zosyn for PNA
   - 500 ml NS bolus for tachycardia
   .
   # Acute on Chronic renal failure:
   - Patient
s creatinine is back to baseline.  Slightly impaired at
   baseline
 renally dose meds, and avoid nephrotoxins.
   .
   # Hypercalcemia:  Secondary to metastatic renal cell CA, stable.
   -continue to trend ionized calcium
   .
   # Metastatic renal cell carcinoma:
   - appreciate heme/onc recs
   - notify heme/onc and palliative care of new depression
   .
   # Hypothyroidism:  Recently started on levothyroxine.
   - continue home levothyroxine
   #Anxiety:
   -Continue outpatient Ativan PRN for anxiety and Megace for appetite
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-9-17**] 02:51 AM
   Arterial Line - [**2100-9-17**] 04:33 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: ICU
 call out this afternoon pending hematocrit
   13:39

2100-09-20 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Weaned off pressors by PM
   -Ativan PRN started for anxiety
   -TTE ordered to assess for pericardial infiltration by the tumor
   -Megace re-started for appetite
   -PM Hct 29.3 stable
   -Cdiff neg., Legionaella neg., Influenza DFA neg., Urine cx neg.
   Resp. culture: commensual resp. flora
   Allergies:
   Cefazolin
   Rash;
   Hydromorphone
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2100-9-18**] 12:20 AM
   Vancomycin - [**2100-9-19**] 08:30 PM
   Piperacillin - [**2100-9-20**] 12:00 AM
   Ciprofloxacin - [**2100-9-20**] 05:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-9-19**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-9-20**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 100 (87 - 107) bpm
   BP: 112/42(61) {94/28(44) - 145/55(78)} mmHg
   RR: 17 (12 - 44) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 78 kg
             Total In:
                                                                  3,042 mL
                                                                    373 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  2,442 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    425 mL
   Urine:
                                                                  1,525 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,517 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.45/30/77/22/-1
   Physical Examination
   GENERAL: Pleasant gentleman, in NAD
   HEENT: Normocephalic, atraumatic. PERRL. MMM. OP clear.
   CARDIAC: Regular rhythm with PVCs,  normal rate. Normal S1, S2. II/VI
   systolic murmur best at RUSB.  JVP 7 cm
   LUNGS: Decreased BS at right lower lung field with some rales at right
   apex.
   ABDOMEN: Soft, NT, ND. No HSM
   EXTREMITIES: 1+ b/l LE edema
   NEURO: A&Ox3.
   Labs / Radiology
   252 K/uL
   9.0 g/dL
   101 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   14 mg/dL
   106 mEq/L
   133 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2100-9-17**]  03:40 AM
                            [**2100-9-17**]  04:35 PM
                            [**2100-9-17**]  06:06 PM
                            [**2100-9-17**]  10:00 PM
                            [**2100-9-18**]  03:52 AM
                            [**2100-9-18**]  02:15 PM
                             [**2100-9-19**]  03:58 AM
                             [**2100-9-19**]  05:30 PM
                             [**2100-9-20**]  03:05 AM
                             [**2100-9-20**]  03:31 AM
   WBC
   5.7
   5.3
   5.2
   5.6
   5.8
   4.9
   Hct
   33.8
   28.8
   28.2
   27.8
   28.6
   29.2
   29.3
   27.0
   Plt
   338
   330
   317
   [**Telephone/Fax (3) 9055**]
   Cr
   1.3
   1.2
   1.3
   1.3
   1.3
   TCO2
   21
   21
   Glucose
   91
   97
   146
   116
   101
   Other labs: PT / PTT / INR:13.4/27.9/1.1, ALT / AST:[**6-29**], Alk Phos / T
   Bili:42/0.5, Amylase / Lipase:/18, Differential-Neuts:77.9 %,
   Lymph:12.0 %, Mono:8.2 %, Eos:1.7 %, Albumin:2.2 g/dL, LDH:118 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   68 y/o gentleman with acute on chronic fatigue and SOB, h/o metastatic
   renal cell cancer to lungs, found to have RLL consolidation concerning
   for pneumonia.
   .
   # Hypotension:  Likely distributive shock.  RLL consolidation
   concerning for PNA, although differential includes neoplastic
   infiltration.  Hemolysis labs negative.  Guaiac negative in ED.  On CT
   a possible hematoma was noted in the pelvis. If expanding, this could
   be a source of hypotension.  However, Hct is elevated today despite no
   intervention since yesterday, likely due to appropriate hematopoiesis
   vs. volume depletion.  Influenza DFA and urinary Legionella antigen
   negative.
   - Continue Vanc/zosyn/cipro to cover HCAP
   - Follow up pending cultures
   - wean off of Levophed if possible
   - TTE to evaluate for pericardial space infiltration by metastatic RCC.
   - hold antihypertensives for now
   - follow up final read of CT scan from yesterday
   - check C. diff given diarrhea
   - active T+S
   -Encourage incentive spirometry
   -F/u Hct this PM
   .
   # Acute on Chronic renal failure: Current Cr is stable and close to
   baseline
   -continue to trend renal function
   - renally dose meds/avoid nephrotoxins
   .
   # Hypercalcemia:  Secondary to metastatic renal cell CA, stable.
   -continue to trend ionized calcium
   .
   # Metastatic renal cell carcinoma:
   - appreciate heme/onc recs
   .
   # Hypothyroidism:  Recently started on levothyroxine.
   - continue home levothyroxine
   #Anxiety: The patient appears very anxious this AM
   -Re-start outpatient Ativan PRN for anxiety and Megace for appetite
   ICU Care
   Nutrition: regular diet, IV fluids, replete lytes PRN
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-9-17**] 02:51 AM
   Arterial Line - [**2100-9-17**] 04:33 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Next of [**Name (NI) **], Wife, [**Name (NI) 8997**] [**Name (NI) 1885**] [**Telephone/Fax (1) 8998**],
   [**Telephone/Fax (1) 9023**]
   Code status: DNR/DNI
   Disposition: to ICU

2100-09-20 12:40:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Vasopressor weaned to off.  Remains off vasopressor this AM.
   Transfer from bed to chair.  Overall, feeling improved.
   Continues to note some dyspnea.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Cefazolin
   Rash;
   Hydromorphone
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2100-9-20**] 12:00 AM
   Ciprofloxacin - [**2100-9-20**] 05:35 AM
   Piperacillin/Tazobactam (Zosyn) - [**2100-9-20**] 07:25 AM
   Vancomycin - [**2100-9-20**] 08:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-9-20**] 07:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2100-9-20**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 92 (79 - 107) bpm
   BP: 94/32(49) {94/28(44) - 131/55(73)} mmHg
   RR: 19 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 78 kg
             Total In:
                                                                  3,042 mL
                                                                    963 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,442 mL
                                                                    723 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    625 mL
   Urine:
                                                                  1,525 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,517 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.45/30/77/22/-1
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   252 K/uL
   101 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   14 mg/dL
   106 mEq/L
   133 mEq/L
   27.0 %
   4.9 K/uL
        [image002.jpg]
                            [**2100-9-17**]  03:40 AM
                            [**2100-9-17**]  04:35 PM
                            [**2100-9-17**]  06:06 PM
                            [**2100-9-17**]  10:00 PM
                            [**2100-9-18**]  03:52 AM
                            [**2100-9-18**]  02:15 PM
                             [**2100-9-19**]  03:58 AM
                             [**2100-9-19**]  05:30 PM
                             [**2100-9-20**]  03:05 AM
                             [**2100-9-20**]  03:31 AM
   WBC
   5.7
   5.3
   5.2
   5.6
   5.8
   4.9
   Hct
   33.8
   28.8
   28.2
   27.8
   28.6
   29.2
   29.3
   27.0
   Plt
   338
   330
   317
   [**Telephone/Fax (3) 9055**]
   Cr
   1.3
   1.2
   1.3
   1.3
   1.3
   TCO2
   21
   21
   Glucose
   91
   97
   146
   116
   101
   Other labs: PT / PTT / INR:13.4/27.9/1.1, ALT / AST:[**6-29**], Alk Phos / T
   Bili:42/0.5, Amylase / Lipase:/18, Differential-Neuts:77.9 %,
   Lymph:12.0 %, Mono:8.2 %, Eos:1.7 %, Albumin:2.2 g/dL, LDH:118 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   68 yom with acute on chronic fatigue and SOB, h/o metastatic renal cell
   cancer to lungs.
   HYPOTENSION -- Resolved.  Attributed to possible new infection/sepsis.
   Possible contribution of underlying malignancy (TNF release).
   Marginal cortisol level and response to cotrosyn stimulation test.
   Monitor BP, maintain MAP >60 mmHg.
   SEPSIS -- concerns include lung infection or line related
   infections.    Continue current level of care, including
   antimicrobials.
   DYSPNEA -- Multifactorial, likely predominatly attributed to
   progressive lung involvement by renal cell CA, possible superimposed
   acute infection (bacterial, viral, fungal) --> Likely superimposed lung
   infection, and progression of pulmonary hypertension (suggested on
   current cardiac echo).   No evidence for pulmonary embolism by CTA.
   Monitor RR, SaO2.
   LUNG INFILTRATES -- progressive, evolving.  Suggests pneumonia on
   background of renal cell involvement.  Continue antimicrobials
   (Vanco/Zosyn/Cipro) for HCAP.
   ANEMIA -- in part attributable to net volume resussitation, but at risk
   for bleed (vascular tumor), esp. intraabdominal.  If Hct continues to
   decline, reimage abdomen to assess for increased intraperitoneal bleed.
   HYPONATREMIA -- chronic, stable.  Monitor Na.
   RENAL FUNCTION -- acute on chronic renal insufficiency.  Now at
   baseline.  Monitor urine output, BUN, creatinine.  Avoid nephrotoxins.
   HYPERCALCEMIA
 Likely related to malignancy.  Improved with volume
   resussitation intervention.
   RENAL CELL CA -- Metastatic renal cell carcinoma, progressive, poor
   prognosis
   HYPOTHYROIDISM -- continue levothyroxine.
   EMERGENCY CONTACT:  Next of [**Name (NI) **], Wife, [**Name (NI) 8997**] [**Name (NI) 1885**] [**Telephone/Fax (1) 8998**], [**Telephone/Fax (1) 8999**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2100-9-17**] 02:51 AM
   Arterial Line - [**2100-9-17**] 04:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill